*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 3.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_0 1 2 3 4 REF
C_C1 1 REF 1.0596811970046pf
C_C2 1 2 12.882757278231pf
C_C3 1 3 0.0352630436206pf
C_C4 1 4 0.1549290673461pf
C_C5 2 REF 1.2129356685859pf
C_C6 2 3 0.0814521834635pf
C_C7 3 REF 0.2878289492789pf
C_C8 3 4 8.191938470738pf
C_C9 4 REF 0.3139620120321pf
L_L1 3 5 1.3134483353847nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_1 1 2 3 4 REF
C_C1 1 REF 0.8196975713754pf
C_C2 1 2 13.063402086349pf
C_C3 1 3 0.0293537806328pf
C_C4 1 4 0.1616195310959pf
C_C5 2 REF 0.9755540663783pf
C_C6 2 3 0.0819656502236pf
C_C7 3 REF 0.2932550805205pf
C_C8 3 4 6.1010521722584pf
C_C9 4 REF 0.3083103508535pf
R_R1 1 2 922.92433358048
L_L1 3 5 1.3151735235134nh
R_RL1 5 4 2.5734348981e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_2 1 2 3 4 REF
C_C1 1 REF 0.648698665109pf
C_C2 1 2 13.229760716255pf
C_C3 1 3 0.0247269897567pf
C_C4 1 4 0.1671659151373pf
C_C5 2 REF 0.8072611028236pf
C_C6 2 3 0.0826674312358pf
C_C7 3 REF 0.2972050721638pf
C_C8 3 4 4.6395086854599pf
C_C9 4 REF 0.3044216150955pf
R_R1 1 2 900.0322855788
L_L1 3 5 1.3166122403978nh
R_RL1 5 4 1.7294304371e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_3 1 2 3 4 REF
C_C1 1 REF 0.5020513776771pf
C_C2 1 2 13.434205625021pf
C_C3 1 3 0.0202679586257pf
C_C4 1 4 0.1729911917802pf
C_C5 2 REF 0.6642204168123pf
C_C6 2 3 0.0837052753399pf
C_C7 3 REF 0.3006519149303pf
C_C8 3 4 3.3801355939493pf
C_C9 4 REF 0.301302173892pf
R_R1 1 2 884.88130428039
L_L1 3 5 1.3180703675781nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_4 1 2 3 4 REF
C_C1 1 REF 0.3887590728356pf
C_C2 1 2 13.686913675607pf
C_C3 1 3 0.0162529647368pf
C_C4 1 4 0.1789354595598pf
C_C5 2 REF 0.5555647654731pf
C_C6 2 3 0.0850678239229pf
C_C7 3 REF 0.3033295970386pf
C_C8 3 4 2.3690057982974pf
C_C9 4 REF 0.2991728379118pf
R_R1 1 2 882.83005994998
L_L1 3 5 1.3195300186593nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_5 1 2 3 4 REF
C_C1 1 REF 0.3197828476001pf
C_C2 1 2 13.961979887519pf
C_C3 1 3 0.013225971946pf
C_C4 1 4 0.1842431621362pf
C_C5 2 REF 0.4916556671814pf
C_C6 2 3 0.0865216745284pf
C_C7 3 REF 0.3049243945101pf
C_C8 3 4 1.6983258064001pf
C_C9 4 REF 0.2981595264711pf
R_R1 1 2 897.79660379852
L_L1 3 5 1.320711224499nh
R_RL1 5 4 -1.383565632e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_6 1 2 3 4 REF
C_C1 1 REF 0.2782830104102pf
C_C2 1 2 14.268281898163pf
C_C3 1 3 0.0108320606825pf
C_C4 1 4 0.1892781865868pf
C_C5 2 REF 0.4556925498955pf
C_C6 2 3 0.0880451875064pf
C_C7 3 REF 0.3058148245976pf
C_C8 3 4 1.2376562444238pf
C_C9 4 REF 0.2977956177306pf
R_R1 1 2 930.84929442973
L_L1 3 5 1.3216833932195nh
R_RL1 5 4 -2.29716278e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_7 1 2 3 4 REF
C_C1 1 REF 0.251238211519pf
C_C2 1 2 14.676594099572pf
C_C3 1 4 0.1951674625413pf
C_C4 2 REF 0.435788101299pf
C_C5 2 3 0.0899178860048pf
C_C6 3 REF 0.3062841267846pf
C_C7 3 4 0.8687836481502pf
C_C8 4 REF 0.2978181609642pf
R_R1 1 2 997.9741640783
L_L1 3 5 1.3226023144863nh
R_RL1 5 4 -3.213201109e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_8 1 2 3 4 REF
C_C1 1 REF 0.2360799862498pf
C_C2 1 2 15.212367045841pf
C_C3 1 4 0.202177144446pf
C_C4 2 REF 0.4296271990353pf
C_C5 2 3 0.0921778501663pf
C_C6 3 REF 0.3063946513403pf
C_C7 3 4 0.5834705732345pf
C_C8 4 REF 0.2980962339839pf
L_L1 3 5 1.3234717455622nh
R_RL1 5 4 -4.096567547e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_9 1 2 3 4 REF
C_C1 1 REF 0.2298890731013pf
C_C2 1 2 15.925467839589pf
C_C3 1 4 0.2108537882269pf
C_C4 2 REF 0.4348664024858pf
C_C5 2 3 0.0949566722614pf
C_C6 3 REF 0.306224725705pf
C_C7 3 4 0.3718782444989pf
C_C8 4 REF 0.2985005733008pf
L_L1 3 5 1.3242461257672nh
R_RL1 5 4 -4.844027805e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_10 1 2 3 4 REF
C_C1 1 REF 0.2287584978804pf
C_C2 1 2 16.863505144518pf
C_C3 1 4 0.2217426199572pf
C_C4 2 REF 0.4481113981591pf
C_C5 2 3 0.0984033861363pf
C_C6 3 REF 0.3058876947514pf
C_C7 3 4 0.2174809702566pf
C_C8 4 REF 0.2989086311274pf
L_L1 3 5 1.324941423707nh
R_RL1 5 4 -5.40101812e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_11 1 2 3 4 REF
C_C1 1 REF 0.2293872372743pf
C_C2 1 2 18.119880097124pf
C_C3 1 4 0.2358639789895pf
C_C4 2 REF 0.4671848056746pf
C_C5 2 3 0.1028442472855pf
C_C6 3 REF 0.3054681924592pf
C_C7 3 4 0.1078147799427pf
C_C8 4 REF 0.2992465929895pf
L_L1 1 5 95.660627732887nh
R_RL1 5 2 17.554229598465
L_L2 3 6 1.3255149681139nh
R_RL2 6 4 -5.659889962e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_12 1 2 3 4 REF
C_C1 1 REF 0.2287069070943pf
C_C2 1 2 19.800767603549pf
C_C3 1 4 0.2543657344183pf
C_C4 2 REF 0.4903085114289pf
C_C5 2 3 0.1086778618645pf
C_C6 3 REF 0.3050319595pf
C_C7 3 4 0.030534486825pf
C_C8 4 REF 0.299489355975pf
L_L1 1 5 58.836229586295nh
R_RL1 5 2 12.251737574143
L_L2 3 6 1.3259858947961nh
R_RL2 6 4 -5.567699941e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_13 1 2 3 4 REF
C_C1 1 REF 0.2237868715964pf
C_C2 1 2 22.118122423182pf
C_C3 1 4 0.2795022372611pf
C_C4 2 REF 0.5172395697133pf
C_C5 2 3 0.1166833459741pf
C_C6 3 REF 0.3046100062612pf
C_C7 4 REF 0.2996490070285pf
L_L1 1 5 35.928441190365nh
R_RL1 5 2 7.8831419318772
L_L2 3 6 1.3261121399586nh
R_RL2 6 4 -5.059031764e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_14 1 2 3 4 REF
C_C1 1 REF 0.2116768019311pf
C_C2 1 2 25.366833276001pf
C_C3 1 4 0.3144021412798pf
C_C4 2 REF 0.5488194718623pf
C_C5 2 3 0.1279431007278pf
C_C6 3 REF 0.3042090553369pf
C_C7 4 REF 0.2997693975894pf
R_R1 1 2 -703.1270199902
L_L1 1 5 21.55556954563nh
R_RL1 5 2 4.8861394533615
L_L2 3 6 1.3258644085465nh
R_RL2 6 4 -4.10747889e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_15 1 2 3 4 REF
C_C1 1 REF 0.1878061476273pf
C_C2 1 2 30.167611097924pf
C_C3 1 4 0.3656469687738pf
C_C4 2 REF 0.588539478678pf
C_C5 2 3 0.1446862072749pf
C_C6 3 REF 0.3038115949434pf
C_C7 4 REF 0.2999179888677pf
L_L1 1 5 12.135842780608nh
R_RL1 5 2 -1.157031568107
L_L2 3 6 1.3254211704322nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_16 1 2 3 4 REF
C_C1 1 REF 0.1410458825257pf
C_C2 1 2 38.25088400998pf
C_C3 1 4 0.4516142370924pf
C_C4 2 REF 0.6478854620306pf
C_C5 2 3 0.1730483222343pf
C_C6 3 REF 0.3033494603324pf
C_C7 4 REF 0.3002239766953pf
R_R1 1 2 -311.1670214118
L_L1 1 5 7.4916606451562nh
R_RL1 5 2 2.9216879431551
L_L2 3 6 1.3246447032051nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_17 1 2 3 4 REF
C_C1 1 REF 0.0454583770556pf
C_C2 1 2 53.560743433115pf
C_C3 1 4 0.6141871424065pf
C_C4 2 REF 0.7524376776441pf
C_C5 2 3 0.2270004227145pf
C_C6 3 REF 0.3027166320218pf
C_C7 4 REF 0.3009734055324pf
R_R1 1 2 -239.9068035277
L_L1 1 5 3.776308022792nh
R_RL1 5 2 0.1906226371584
L_L2 3 6 1.3231906122096nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_18 1 2 3 4 REF
C_C1 1 2 89.227028144696pf
C_C2 1 4 0.9929182418402pf
C_C3 2 REF 0.9883252522961pf
C_C4 2 3 0.3529654774194pf
C_C5 3 REF 0.3015862697683pf
C_C6 4 REF 0.3030827225322pf
R_R1 1 2 -303.8089690352
L_L1 1 5 1.410428155109nh
R_RL1 5 2 0.0412777613478
L_L2 1 6 63.075408519464nh
R_RL2 6 3 0.0271090492788
L_L3 1 7 62.334552555343nh
R_RL3 7 4 0.0273218380356
L_L4 2 8 63.16935968859nh
R_RL4 8 3 0.0022481836152
L_L5 2 9 62.431473608526nh
R_RL5 9 4 0.002174375597
L_L6 3 10 1.3198965206321nh
R_RL6 10 4 2.8403461997e-5
Kn_K1 L_L1 L_L2 0.069787518393
Kn_K2 L_L1 L_L3 0.0700426424455
Kn_K3 L_L1 L_L4 -0.079689047992
Kn_K4 L_L1 L_L5 -0.080316838325
Kn_K5 L_L2 L_L3 0.9894926113494
Kn_K6 L_L2 L_L4 0.9888281026887
Kn_K7 L_L2 L_L5 0.978234830259
Kn_K8 L_L2 L_L6 -0.11292649753
Kn_K9 L_L3 L_L4 0.9782904088914
Kn_K10 L_L3 L_L5 0.9886957132579
Kn_K11 L_L3 L_L6 0.0319186579161
Kn_K12 L_L4 L_L5 0.9895084154874
Kn_K13 L_L4 L_L6 -0.112679864417
Kn_K14 L_L5 L_L6 0.0320574552562
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_19 1 2 3 4 REF
C_C1 1 2 218.55589604099pf
C_C2 1 4 2.3672512799122pf
C_C3 2 REF 1.8359057340917pf
C_C4 2 3 0.8100190008179pf
C_C5 3 REF 0.2982348143848pf
C_C6 4 REF 0.31164445481pf
R_R1 1 2 44.682381866206
L_L1 1 5 55.813029439808nh
R_RL1 5 REF -1.448903491958
L_L2 1 6 0.39028035359nh
R_RL2 6 2 -0.052007224668
L_L3 1 7 20.406184006433nh
R_RL3 7 3 -0.029317247655
L_L4 1 8 19.716464362724nh
R_RL4 8 4 -0.030286847413
L_L5 2 9 55.473582548804nh
R_RL5 9 REF -1.488999513186
L_L6 2 10 20.475692952734nh
R_RL6 10 3 -3.143417333e-3
L_L7 2 11 19.790063555246nh
R_RL7 11 4 -2.849737159e-3
L_L8 3 12 75.749953934936nh
R_RL8 12 REF -1.437759146493
L_L9 3 13 1.3081388668188nh
R_RL9 13 4 3.2046288559e-5
L_L10 4 14 75.05022889863nh
R_RL10 14 REF -1.439072630217
Kn_K1 L_L1 L_L2 0.0781761759121
Kn_K2 L_L1 L_L5 0.9964976517175
Kn_K3 L_L1 L_L8 0.8547656342845
Kn_K4 L_L1 L_L10 0.8586637638698
Kn_K5 L_L2 L_L3 0.0568324540797
Kn_K6 L_L2 L_L4 0.0570807103253
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.08132446511
Kn_K9 L_L2 L_L7 -0.083457099793
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9675394648135
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9904548945473
Kn_K15 L_L3 L_L7 0.9577575798905
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.193342312354
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9580152288279
Kn_K21 L_L4 L_L7 0.9901228355171
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.060885172584
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8542224661412
Kn_K26 L_L5 L_L10 0.8580861376775
Kn_K27 L_L6 L_L7 0.9676526637387
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.192618703041
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0611737983647
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1008523831888
Kn_K35 L_L8 L_L10 0.99133602156
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_20 1 2 3 4 REF
C_C1 1 2 4551.3481192467pf
C_C2 1 4 48.472008589836pf
C_C3 2 REF 30.243127385395pf
C_C4 2 3 16.125491986168pf
C_C5 3 REF 0.1973319580833pf
C_C6 3 4 0.0449126920155pf
C_C7 4 REF 0.6133998627992pf
R_R1 1 REF -6.022500880497
R_R2 1 2 0.0394545623727
R_R3 1 3 -11.16363706284
R_R4 1 4 3.7087298709826
R_R5 2 REF 6.0246559640947
R_R6 2 3 11.16972907162
R_R7 2 4 -3.710784119274
R_R8 4 REF 566.52362879126
L_L1 1 5 1.6357349087158nh
R_RL1 5 REF -1.363250448e-3
L_L2 1 6 0.0051782417233nh
R_RL2 6 2 -0.028459477213
L_L3 1 7 1.3111376716956nh
R_RL3 7 3 -9.049384058e-3
L_L4 1 8 0.8032738108627nh
R_RL4 8 4 -0.018864563829
L_L5 2 9 1.6196278126064nh
R_RL5 9 REF -0.029858404829
L_L6 2 10 1.313150476329nh
R_RL6 10 3 -5.389354875e-3
L_L7 2 11 0.813204990605nh
R_RL7 11 4 -9.810060912e-4
L_L8 3 12 2.935019645405nh
R_RL8 12 REF -0.010378090127
L_L9 3 13 0.994819290994nh
R_RL9 13 4 -1.752991291e-3
L_L10 4 14 2.4217980708211nh
R_RL10 14 REF -0.020214191757
Kn_K1 L_L1 L_L2 0.1156386281594
Kn_K2 L_L1 L_L5 0.998421541024
Kn_K3 L_L1 L_L8 0.7438315503537
Kn_K4 L_L1 L_L10 0.8175168559414
Kn_K5 L_L2 L_L3 0.0192082758227
Kn_K6 L_L2 L_L4 -0.036847598751
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.043602730352
Kn_K9 L_L2 L_L7 -0.116419750057
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.055162357257
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.545473822416
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9980270949481
Kn_K16 L_L3 L_L7 0.5406000411128
Kn_K17 L_L3 L_L8 0.8308199351081
Kn_K18 L_L3 L_L9 -0.657871654388
Kn_K19 L_L3 L_L10 0.9131224682255
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5473695014831
Kn_K22 L_L4 L_L7 0.9968154043022
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2723675187062
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7433656801665
Kn_K27 L_L5 L_L10 0.814998239882
Kn_K28 L_L6 L_L7 0.5474962919265
Kn_K29 L_L6 L_L8 0.8255680399418
Kn_K30 L_L6 L_L9 -0.653903275506
Kn_K31 L_L6 L_L10 0.9051218228216
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2751011170617
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.4412711244279
Kn_K36 L_L8 L_L10 0.818052239826
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_21 1 2 3 4 REF
C_C1 1 REF 29.929545558282pf
C_C2 1 3 15.982844907753pf
C_C3 2 4 47.938014883924pf
C_C4 3 REF 0.4066455901548pf
R_R1 1 REF 7.1480186921181
R_R2 1 2 -0.046832954697
R_R3 1 3 13.251979331723
R_R4 1 4 -4.402396638395
R_R5 2 REF -7.153158215996
R_R6 2 3 -13.25938650817
R_R7 2 4 4.4048220855514
R_R8 4 REF -672.1682093897
L_L1 1 5 1.3847132371438nh
R_RL1 5 REF -6.046893503e-4
L_L2 1 6 2.6541366331e-4nh
R_RL2 6 2 0.0461579704897
L_L3 1 7 1.1613364955907nh
R_RL3 7 3 0.0134402881532
L_L4 1 8 0.6817757580106nh
R_RL4 8 4 0.0315075801673
L_L5 2 9 1.3668565637424nh
R_RL5 9 REF 0.0476050114366
L_L6 2 10 1.1627258547959nh
R_RL6 10 3 0.0097973455679
L_L7 2 11 0.69309954396nh
R_RL7 11 4 0.0013953950558
L_L8 3 12 2.5372647199036nh
R_RL8 12 REF 0.0139719768149
L_L9 3 13 0.9453075647072nh
R_RL9 13 4 0.0038089210148
L_L10 4 14 2.0622464331129nh
R_RL10 14 REF 0.0326167073421
Kn_K1 L_L1 L_L2 0.4726467291946
Kn_K2 L_L1 L_L5 0.9999245972938
Kn_K3 L_L1 L_L8 0.7364057964712
Kn_K4 L_L1 L_L10 0.8181705129192
Kn_K5 L_L2 L_L3 -0.032009183645
Kn_K6 L_L2 L_L4 -0.411034991795
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.047098610303
Kn_K9 L_L2 L_L7 -0.427232224931
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.313591737359
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.5044894156412
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9998859761999
Kn_K16 L_L3 L_L7 0.500977677831
Kn_K17 L_L3 L_L8 0.8041148511436
Kn_K18 L_L3 L_L9 -0.679953362568
Kn_K19 L_L3 L_L10 0.893397449285
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.5103980598242
Kn_K22 L_L4 L_L7 0.9998408672745
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2900765123765
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7360330687791
Kn_K27 L_L5 L_L10 0.8148072668617
Kn_K28 L_L6 L_L7 0.5071331375684
Kn_K29 L_L6 L_L8 0.7980316822334
Kn_K30 L_L6 L_L9 -0.67480907923
Kn_K31 L_L6 L_L10 0.8834413037287
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2938337432482
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.458551944136
Kn_K36 L_L8 L_L10 0.7987476126961
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_22 1 2 3 4 REF
C_C1 1 2 141.06748319086pf
C_C2 1 4 1.5383975624049pf
C_C3 2 REF 1.330980972918pf
C_C4 2 3 0.5365576780819pf
C_C5 3 REF 0.2983434643456pf
C_C6 4 REF 0.3042693856311pf
R_R1 1 2 -16.2330441873
L_L1 1 5 63.102907647342nh
R_RL1 5 REF 0.4840729346611
L_L2 1 6 0.1987576941892nh
R_RL2 6 2 0.0760681172403
L_L3 1 7 18.534064038504nh
R_RL3 7 3 0.0439359923145
L_L4 1 8 17.826823861181nh
R_RL4 8 4 0.0455067928565
L_L5 2 9 62.476260230317nh
R_RL5 9 REF 0.5580966331149
L_L6 2 10 18.673495666456nh
R_RL6 10 3 0.0041315227709
L_L7 2 11 17.974450620012nh
R_RL7 11 4 0.0036750141924
L_L8 3 12 81.271131967667nh
R_RL8 12 REF 0.5252166167357
L_L9 3 13 1.3040492680105nh
R_RL9 13 4 1.0e-5
L_L10 4 14 80.548771492331nh
R_RL10 14 REF 0.5268162139545
Kn_K1 L_L1 L_L2 0.1165334214845
Kn_K2 L_L1 L_L5 0.9984297026388
Kn_K3 L_L1 L_L8 0.8786092874965
Kn_K4 L_L1 L_L10 0.882434131644
Kn_K5 L_L2 L_L3 0.0154549730511
Kn_K6 L_L2 L_L4 0.0135817202315
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.087771820862
Kn_K9 L_L2 L_L7 -0.091630194386
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9643183644898
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9946651208645
Kn_K15 L_L3 L_L7 0.9587249732901
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.2045560126
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9593102107246
Kn_K21 L_L4 L_L7 0.9944567613002
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0618901374956
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.877629104886
Kn_K26 L_L5 L_L10 0.881391271668
Kn_K27 L_L6 L_L7 0.9645923476262
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.202960530859
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0624818092856
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0984197177127
Kn_K35 L_L8 L_L10 0.9919512377117
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_23 1 2 3 4 REF
C_C1 1 REF 0.1690732743329pf
C_C2 1 2 38.431969269324pf
C_C3 1 4 0.4458896200584pf
C_C4 2 REF 0.6632887000655pf
C_C5 2 3 0.1735209341058pf
C_C6 3 REF 0.2998335723536pf
C_C7 4 REF 0.2961296380793pf
R_R1 1 2 -79.30025240323
L_L1 1 5 0.5751850664428nh
R_RL1 5 2 0.1853668943106
L_L2 1 6 69.748789076056nh
R_RL2 6 3 0.1166498514624
L_L3 1 7 68.862763605737nh
R_RL3 7 4 0.1163271261432
L_L4 2 8 70.54274847456nh
R_RL4 8 3 0.1687482864429
L_L5 2 9 69.664734085177nh
R_RL5 9 4 0.1663632859866
L_L6 3 10 1.3163433835959nh
R_RL6 10 4 -5.122977814e-5
Kn_K1 L_L1 L_L2 -0.017270075408
Kn_K2 L_L1 L_L3 -0.01801727455
Kn_K3 L_L1 L_L4 -0.107470505126
Kn_K4 L_L1 L_L5 -0.1087784101
Kn_K5 L_L2 L_L3 0.9905236009399
Kn_K6 L_L2 L_L4 0.9959160218403
Kn_K7 L_L2 L_L5 0.9863749620984
Kn_K8 L_L2 L_L6 -0.114923045769
Kn_K9 L_L3 L_L4 0.9865605726783
Kn_K10 L_L3 L_L5 0.9958645521474
Kn_K11 L_L3 L_L6 0.0225986558407
Kn_K12 L_L4 L_L5 0.9906308856192
Kn_K13 L_L4 L_L6 -0.113858814069
Kn_K14 L_L5 L_L6 0.0228864858916
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_24 1 2 3 4 REF
C_C1 1 REF 0.318890456413pf
C_C2 1 2 16.344952644103pf
C_C3 1 3 0.0169126522994pf
C_C4 1 4 0.2116045342483pf
C_C5 2 REF 0.5263157579287pf
C_C6 2 3 0.0944608756227pf
C_C7 3 REF 0.2992578214911pf
C_C8 4 REF 0.2933966572412pf
R_R1 1 2 -281.7160045203
L_L1 1 5 0.9320000118042nh
R_RL1 5 2 0.1542278176034
L_L2 3 6 1.3179298976883nh
R_RL2 6 4 -5.81276397e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_25 1 2 3 4 REF
C_C1 1 REF 0.3756317495839pf
C_C2 1 2 8.5382525280716pf
C_C3 1 3 0.0488266451561pf
C_C4 1 4 0.1296744262296pf
C_C5 2 REF 0.4849497353469pf
C_C6 2 3 0.0652742446505pf
C_C7 3 REF 0.2980995672854pf
C_C8 4 REF 0.2913658664789pf
L_L1 1 5 1.4073724632267nh
R_RL1 5 2 0.0073154477359
L_L2 3 6 1.3157759453761nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_26 1 2 3 4 REF
C_C1 1 REF 0.3963675808848pf
C_C2 1 2 6.2603014631449pf
C_C3 1 3 0.060124366697pf
C_C4 1 4 0.1047547112002pf
C_C5 2 REF 0.4759579031169pf
C_C6 2 3 0.056134368165pf
C_C7 2 4 0.0205556990622pf
C_C8 3 REF 0.2970811601588pf
C_C9 4 REF 0.2899817880534pf
L_L1 1 5 1.7263403203618nh
R_RL1 5 2 1.2715831467e-4
L_L2 3 6 1.3149372789079nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param56_26

